US07977331B1
To a solution of ethyl 12-cyclohexyl-6-oxo-6,7-dihydro-5H-5,7a,8-triazadibenzo[a,e]azulene-9-carboxylate (111 mg, 0.28 mmol) in tetrahydrofuran (1 ml) was added 1M BH3 THF complex tetrahydrofuran solution (1.6 ml) with stirring under ice-cooling, and the mixture was stirred at room temperature for 5 hr. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel chromatography (hexane:ethyl acetate=3:2) to give ethyl 12-cyclohexyl-6,7-dihydro-5H-5,7a,8-triazadibenzo[a,e]azulene-9-carboxylate (74 mg, yield 69%).

reactant | ethyl 12-cyclohexyl-6-oxo-6,7-dihydro-5H-5,7a,8-triazadibenzo[a,e]azulene-9-carboxylate | 0.28 mmol, 111 mg | C1(CCCCC1)C=1C2=C(N3CC(NC4=C(C13)C=CC=C4)=O)N=C(C=C2)C(=O)OCC | C24H25N3O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | THF | 1.6 ml | C1CCOC1 | C4H8O
product | ethyl 12-cyclohexyl-6,7-dihydro-5H-5,7a,8-triazadibenzo[a,e]azulene-9-carboxylate | 74 mg, yield 69% | C1(CCCCC1)C=1C2=C(N3CCNC4=C(C13)C=CC=C4)N=C(C=C2)C(=O)OCC | C24H27N3O2
